US05506244
To a degasseal solution of N-[[1-[(2-(S)-acetylmercapto-3-methyl-1-oxobutyl)-amino]-1-cyclopentyl]-carbonyl]-L-tyrosine n-butyl ester (2.4 g, 4.74 mmole) in methanol at 0° C. is added dropwise 1N sodium hydroxide (4.74 ml, 4.74 mmole). The mixture is stirred for 30 minutes, neutralized to pH 3 with 1N hydrochloric acid and concentrated to dryness. The residue is dissolved in a mixture of water and ethyl acetate. The organic phase is separated, washed with brine, dried over magnesium sulfate and evaporated to dryness to yield N-[[1-[(2-(S)-mercapto-3-methyl- 1-oxobutyl)amino]- 1-cyclopentyl]-carbonyl]-L-tyrosine n-butyl ester, m.p. 182°-183° C.

reactant | N-[[1-[(2-(S)-acetylmercapto-3-methyl-1-oxobutyl)-amino]-1-cyclopentyl]-carbonyl]-L-tyrosine n-butyl ester | 4.74 mmole, 2.4 g | C(CCC)OC([C@@H](NC(=O)C1(CCCC1)NC([C@H](C(C)C)SC(C)=O)=O)CC1=CC=C(C=C1)O)=O | C26H38N2O6S
reactant | sodium hydroxide | 4.74 mmole, 1N, 4.74 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | CO | CH4O
product | N-[[1-[(2-(S)-mercapto-3-methyl- 1-oxobutyl)amino]- 1-cyclopentyl]-carbonyl]-L-tyrosine n-butyl ester | C(CCC)OC([C@@H](NC(=O)C1(CCCC1)NC([C@H](C(C)C)S)=O)CC1=CC=C(C=C1)O)=O | C24H36N2O5S
